US07989633B2
Cyclopropylmethyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate
500 mg (2.65 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde, 798 mg (2.65 mmol) of cyclopropylmethyl 3-oxobutanoate, 38 μl (0.66 mmol) of acetic acid and 66 μl (0.66 mmol) of piperidine in 25 ml of anhydrous dichloromethane are heated after addition of 4 Å molecular sieves (1.5 g) under reflux for 24 h. After cooling, the suspension is filtered with suction and the filtrate is washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and concentrated. The residue is purified by preparative HPLC. 650 mg (74% of theory) of the title compound are obtained as an E/Z mixture.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 2.65 mmol, 500 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | cyclopropylmethyl 3-oxobutanoate | 2.65 mmol, 798 mg | O=C(CC(=O)OCC1CC1)C | C8H12O3
reactant | acetic acid | 0.66 mmol, 38 μl | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.66 mmol, 66 μl | N1CCCCC1 | C5H11N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Cyclopropylmethyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)OCC1CC1)C(C)=O | C19H18O5
